*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_0 1 2 3 4 REF
C_C1 1 REF 0.9595815468547pf
C_C2 1 2 13.871779548829pf
C_C3 1 3 0.0176607565027pf
C_C4 1 4 0.1859993786195pf
C_C5 2 REF 1.4478873814679pf
C_C6 2 3 0.097703561118pf
C_C7 3 REF 0.3470138516974pf
C_C8 3 4 7.6481029266951pf
C_C9 4 REF 0.3496661855992pf
L_L1 3 5 1.3096028777098nh
R_RL1 5 4 -1.091815386e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_1 1 2 3 4 REF
C_C1 1 REF 0.6844860814049pf
C_C2 1 2 14.122887739949pf
C_C3 1 3 0.0164182231636pf
C_C4 1 4 0.1875424130775pf
C_C5 2 REF 1.1401364534268pf
C_C6 2 3 0.0983207390326pf
C_C7 3 REF 0.3476879613243pf
C_C8 3 4 5.6689844476464pf
C_C9 4 REF 0.3488034614826pf
R_R1 1 2 963.54783668069
L_L1 3 5 1.3112262767929nh
R_RL1 5 4 3.737477482e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_2 1 2 3 4 REF
C_C1 1 REF 0.5110416544244pf
C_C2 1 2 14.352331806249pf
C_C3 1 3 0.0152855051016pf
C_C4 1 4 0.18953186114pf
C_C5 2 REF 0.9211396101169pf
C_C6 2 3 0.0988745990014pf
C_C7 3 REF 0.3483091848228pf
C_C8 3 4 4.2882096305806pf
C_C9 4 REF 0.3480372688327pf
R_R1 1 2 935.90605257135
L_L1 3 5 1.3125772024944nh
R_RL1 5 4 2.3545716886e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_3 1 2 3 4 REF
C_C1 1 REF 0.3863153053032pf
C_C2 1 2 14.637656878558pf
C_C3 1 3 0.0139837962834pf
C_C4 1 4 0.1926418070816pf
C_C5 2 REF 0.7323329204617pf
C_C6 2 3 0.0995191766855pf
C_C7 3 REF 0.3490128683971pf
C_C8 3 4 3.1012813441882pf
C_C9 4 REF 0.3472204153828pf
R_R1 1 2 936.67431707673
L_L1 3 5 1.3139429431204nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_4 1 2 3 4 REF
C_C1 1 REF 0.312294044957pf
C_C2 1 2 14.998109745782pf
C_C3 1 3 0.0125467588429pf
C_C4 1 4 0.1971137126021pf
C_C5 2 REF 0.5850317116339pf
C_C6 2 3 0.1002734747022pf
C_C7 3 REF 0.3497448578737pf
C_C8 3 4 2.1512271602086pf
C_C9 4 REF 0.3464460531939pf
R_R1 1 2 976.39890588977
L_L1 3 5 1.3153057111352nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_5 1 2 3 4 REF
C_C1 1 REF 0.2833283708593pf
C_C2 1 2 15.398354242949pf
C_C3 1 3 0.0111781401665pf
C_C4 1 4 0.202377519863pf
C_C5 2 REF 0.4951997235505pf
C_C6 2 3 0.1010714609262pf
C_C7 3 REF 0.3503601949739pf
C_C8 3 4 1.5235246964527pf
C_C9 4 REF 0.3458870464227pf
L_L1 3 5 1.3164040388213nh
R_RL1 5 4 -2.506785569e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_6 1 2 3 4 REF
C_C1 1 REF 0.2753465696937pf
C_C2 1 2 15.848740524076pf
C_C3 1 4 0.2083781017625pf
C_C4 2 REF 0.4432430357513pf
C_C5 2 3 0.1019681064125pf
C_C6 3 REF 0.3508674123925pf
C_C7 3 4 1.0942507099208pf
C_C8 4 REF 0.3455262754347pf
L_L1 3 5 1.3173039568132nh
R_RL1 5 4 -3.837289285e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_7 1 2 3 4 REF
C_C1 1 REF 0.2757494578387pf
C_C2 1 2 16.450315978262pf
C_C3 1 4 0.216318413902pf
C_C4 2 REF 0.4151211889277pf
C_C5 2 3 0.1032143061161pf
C_C6 3 REF 0.3513363866207pf
C_C7 3 4 0.7523298331487pf
C_C8 4 REF 0.3453275277707pf
L_L1 3 5 1.3181499875989nh
R_RL1 5 4 -5.103294552e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_8 1 2 3 4 REF
C_C1 1 REF 0.2772438403353pf
C_C2 1 2 17.235770842729pf
C_C3 1 4 0.2264645682945pf
C_C4 2 REF 0.41000329827pf
C_C5 2 3 0.1049583674316pf
C_C6 3 REF 0.3517344442259pf
C_C7 3 4 0.4895614256928pf
C_C8 4 REF 0.34532583516pf
L_L1 3 5 1.3189452001964nh
R_RL1 5 4 -6.236394108e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_9 1 2 3 4 REF
C_C1 1 REF 0.274044902048pf
C_C2 1 2 18.270590447128pf
C_C3 1 4 0.2394348467007pf
C_C4 2 REF 0.4262775642374pf
C_C5 2 3 0.1074786717174pf
C_C6 3 REF 0.3520310235393pf
C_C7 3 4 0.2963358281903pf
C_C8 4 REF 0.3455344974511pf
L_L1 3 5 1.3196473821976nh
R_RL1 5 4 -7.075146073e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_10 1 2 3 4 REF
C_C1 1 REF 0.2634487795978pf
C_C2 1 2 19.616211728675pf
C_C3 1 4 0.2557635729869pf
C_C4 2 REF 0.4586390050208pf
C_C5 2 3 0.1110810653112pf
C_C6 3 REF 0.3522071472403pf
C_C7 3 4 0.1567729968865pf
C_C8 4 REF 0.3459074558284pf
L_L1 3 5 1.3202691260945nh
R_RL1 5 4 -7.537097076e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_11 1 2 3 4 REF
C_C1 1 REF 0.2450922399923pf
C_C2 1 2 21.400649157917pf
C_C3 1 4 0.2767041407828pf
C_C4 2 REF 0.5020730840311pf
C_C5 2 3 0.116314095276pf
C_C6 3 REF 0.3522423900368pf
C_C7 3 4 0.0589325499193pf
C_C8 4 REF 0.3463773022751pf
L_L1 1 5 67.945706369436nh
R_RL1 5 2 11.74551628821
L_L2 3 6 1.3207632373074nh
R_RL2 6 4 -7.490005964e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_12 1 2 3 4 REF
C_C1 1 REF 0.2207834273146pf
C_C2 1 2 23.778134162761pf
C_C3 1 4 0.3037845431444pf
C_C4 2 REF 0.5508238128513pf
C_C5 2 3 0.1238206664382pf
C_C6 3 REF 0.3521302974845pf
C_C7 4 REF 0.3468555324861pf
L_L1 1 5 42.26852746957nh
R_RL1 5 2 7.48623104525
L_L2 3 6 1.3210806003918nh
R_RL2 6 4 -6.886544725e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_13 1 2 3 4 REF
C_C1 1 REF 0.1916919347347pf
C_C2 1 2 27.071937240591pf
C_C3 1 4 0.3403501731312pf
C_C4 2 REF 0.6014643726249pf
C_C5 2 3 0.134827926797pf
C_C6 3 REF 0.3518619622029pf
C_C7 4 REF 0.3472739865859pf
R_R1 1 2 -971.948960403
L_L1 1 5 25.948702450337nh
R_RL1 5 2 4.9349467311649
L_L2 3 6 1.320875258171nh
R_RL2 6 4 -5.700244401e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_14 1 2 3 4 REF
C_C1 1 REF 0.1573422954596pf
C_C2 1 2 31.768259859556pf
C_C3 1 4 0.3915112776699pf
C_C4 2 REF 0.6533421657954pf
C_C5 2 3 0.1511029555714pf
C_C6 3 REF 0.3514420479289pf
C_C7 4 REF 0.347607934673pf
R_R1 1 2 -657.5490168725
L_L1 1 5 15.609023913533nh
R_RL1 5 2 3.5561887258809
L_L2 3 6 1.320520995325nh
R_RL2 6 4 -3.969830141e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_15 1 2 3 4 REF
C_C1 1 REF 0.1122359631263pf
C_C2 1 2 38.94569181996pf
C_C3 1 4 0.46871541839pf
C_C4 2 REF 0.7115962282811pf
C_C5 2 3 0.1764894106779pf
C_C6 3 REF 0.350862538055pf
C_C7 4 REF 0.34790329364pf
R_R1 1 2 -460.2697702249
L_L1 1 5 9.3924734030193nh
R_RL1 5 2 2.8254725229199
L_L2 3 6 1.3199136321584nh
R_RL2 6 4 -1.735225669e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_16 1 2 3 4 REF
C_C1 1 REF 0.0362738389986pf
C_C2 1 2 51.759531264527pf
C_C3 1 4 0.6056072870668pf
C_C4 2 REF 0.7970925609323pf
C_C5 2 3 0.2221747790237pf
C_C6 3 REF 0.35004636193pf
C_C7 4 REF 0.3483631142345pf
R_R1 1 2 -318.0939669242
L_L1 1 5 5.1983456220787nh
R_RL1 5 2 0.3128556571656
L_L2 3 6 1.3188227830701nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_17 1 2 3 4 REF
C_C1 1 2 78.691637798442pf
C_C2 1 4 0.8926395206918pf
C_C3 2 REF 0.9662128447952pf
C_C4 2 3 0.3182263211635pf
C_C5 3 REF 0.3488222762709pf
C_C6 4 REF 0.3495960857888pf
R_R1 1 2 -216.8235278266
L_L1 1 5 2.1043282636313nh
R_RL1 5 2 0.1512139226462
L_L2 1 6 88.522775877964nh
R_RL2 6 3 0.0631718215999
L_L3 1 7 87.754476016126nh
R_RL3 7 4 0.0637865887426
L_L4 2 8 88.565744844531nh
R_RL4 8 3 0.0111985346536
L_L5 2 9 87.79997882149nh
R_RL5 9 4 0.0108685444054
L_L6 3 10 1.3165811773541nh
R_RL6 10 4 3.0915297287e-5
Kn_K1 L_L1 L_L2 0.0755160811592
Kn_K2 L_L1 L_L3 0.0757527060413
Kn_K3 L_L1 L_L4 -0.078645256709
Kn_K4 L_L1 L_L5 -0.079080678994
Kn_K5 L_L2 L_L3 0.9925406180488
Kn_K6 L_L2 L_L4 0.988117111691
Kn_K7 L_L2 L_L5 0.9805924620672
Kn_K8 L_L2 L_L6 -0.096560598984
Kn_K9 L_L3 L_L4 0.9806230654003
Kn_K10 L_L3 L_L5 0.9880132780497
Kn_K11 L_L3 L_L6 0.0255043929402
Kn_K12 L_L4 L_L5 0.9925442932492
Kn_K13 L_L4 L_L6 -0.096419846786
Kn_K14 L_L5 L_L6 0.0256156191814
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_18 1 2 3 4 REF
C_C1 1 2 156.00587435703pf
C_C2 1 4 1.7168925419261pf
C_C3 2 REF 1.4596167033285pf
C_C4 2 3 0.5931881844616pf
C_C5 3 REF 0.3463785674866pf
C_C6 4 REF 0.3541871586683pf
R_R1 1 2 -170.2458384329
L_L1 1 5 0.7197896878194nh
R_RL1 5 2 0.025837915523
L_L2 1 6 34.776595934621nh
R_RL2 6 3 0.0194969969253
L_L3 1 7 34.066243081772nh
R_RL3 7 4 0.0196499025464
L_L4 2 8 34.868741487727nh
R_RL4 8 3 0.0015362771152
L_L5 2 9 34.161978025477nh
R_RL5 9 4 0.0013902818145
L_L6 3 10 1.310290629504nh
R_RL6 10 4 4.9054521998e-5
Kn_K1 L_L1 L_L2 0.0627244893303
Kn_K2 L_L1 L_L3 0.0630126526756
Kn_K3 L_L1 L_L4 -0.081034591946
Kn_K4 L_L1 L_L5 -0.082230469964
Kn_K5 L_L2 L_L3 0.9810191555547
Kn_K6 L_L2 L_L4 0.9896657926153
Kn_K7 L_L2 L_L5 0.970538836814
Kn_K8 L_L2 L_L6 -0.14966916868
Kn_K9 L_L3 L_L4 0.9706686423373
Kn_K10 L_L3 L_L5 0.9894512385195
Kn_K11 L_L3 L_L6 0.044898339083
Kn_K12 L_L4 L_L5 0.9810701528991
Kn_K13 L_L4 L_L6 -0.149205762118
Kn_K14 L_L5 L_L6 0.0451036311037
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_19 1 2 3 4 REF
C_C1 1 2 701.05520778194pf
C_C2 1 4 7.534614322774pf
C_C3 2 REF 5.0150161667004pf
C_C4 2 3 2.5265533390305pf
C_C5 3 REF 0.333056617063pf
C_C6 4 REF 0.3913897601082pf
R_R1 1 2 17.123299425446
L_L1 1 5 13.902060906172nh
R_RL1 5 REF -0.148245010408
L_L2 1 6 0.1089038605494nh
R_RL2 6 2 -0.010170564369
L_L3 1 7 6.6463817550305nh
R_RL3 7 3 -3.503826182e-3
L_L4 1 8 5.9953559982656nh
R_RL4 8 4 -4.187005093e-3
L_L5 2 9 13.83083414176nh
R_RL5 9 REF -0.167873013106
L_L6 2 10 6.6711668261553nh
R_RL6 10 3 -1.227547275e-3
L_L7 2 11 6.0248116709729nh
R_RL7 11 4 -9.498841084e-4
L_L8 3 12 20.427813410722nh
R_RL8 12 REF -0.167954253838
L_L9 3 13 1.2666604514703nh
R_RL9 13 4 3.0122702713e-5
L_L10 4 14 19.769087781081nh
R_RL10 14 REF -0.168864197674
Kn_K1 L_L1 L_L2 0.0731975135952
Kn_K2 L_L1 L_L5 0.9960764012281
Kn_K3 L_L1 L_L8 0.8213728620455
Kn_K4 L_L1 L_L10 0.8347129758222
Kn_K5 L_L2 L_L3 0.0494366164816
Kn_K6 L_L2 L_L4 0.0491614715622
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078422903755
Kn_K9 L_L2 L_L7 -0.085405475892
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.900998839483
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9918242471666
Kn_K15 L_L3 L_L7 0.8921470354432
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.330464492364
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8930423195576
Kn_K21 L_L4 L_L7 0.9909428803741
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1117005978904
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.820629111373
Kn_K26 L_L5 L_L10 0.8338151087528
Kn_K27 L_L6 L_L7 0.9014002700818
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.329046678571
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.112272566414
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1892547487807
Kn_K35 L_L8 L_L10 0.9686186741479
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_20 1 2 3 4 REF
C_C1 1 REF 10.674748020267pf
C_C2 1 3 5.6068941153413pf
C_C3 2 4 16.732724520217pf
C_C4 3 REF 0.3851466460646pf
C_C5 4 REF 0.232227933471pf
R_R1 1 2 10.784361867642
R_R2 1 4 884.17888977282
R_R3 2 4 -887.2876464123
L_L1 1 5 4.9338549957694nh
R_RL1 5 REF -0.017243646153
L_L2 1 6 0.3637322625905nh
R_RL2 6 2 -0.196811107742
L_L3 1 7 3.0042521939618nh
R_RL3 7 3 -0.097004846291
L_L4 1 8 2.4577238176728nh
R_RL4 8 4 -0.126798026546
L_L5 2 9 5.2714780054156nh
R_RL5 9 REF -0.218310873821
L_L6 2 10 2.8969368261146nh
R_RL6 10 3 -0.017218088908
L_L7 2 11 2.2874183519345nh
R_RL7 11 4 -7.527260205e-3
L_L8 3 12 7.944046166882nh
R_RL8 12 REF -0.118965334127
L_L9 3 13 1.1863106239076nh
R_RL9 13 4 -1.939552138e-3
L_L10 4 14 7.407221639348nh
R_RL10 14 REF -0.149158257754
Kn_K1 L_L1 L_L5 0.9648867806066
Kn_K2 L_L1 L_L8 0.7885579541728
Kn_K3 L_L1 L_L10 0.817435402571
Kn_K4 L_L2 L_L3 0.2253075381491
Kn_K5 L_L2 L_L4 0.2824128756514
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.124898210637
Kn_K8 L_L2 L_L7 -0.106028576718
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0479459762244
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7867540402376
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9385180862056
Kn_K15 L_L3 L_L7 0.7256714563558
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.458945181825
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.7011234942145
Kn_K21 L_L4 L_L7 0.9239416619932
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1873425557716
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0287075741884
Kn_K26 L_L5 L_L7 0.0218395758962
Kn_K27 L_L5 L_L8 0.7972658647858
Kn_K28 L_L5 L_L9 -0.014534591925
Kn_K29 L_L5 L_L10 0.8314674195602
Kn_K30 L_L6 L_L7 0.7765605443703
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.48435778716
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1750722586917
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2806527207479
Kn_K38 L_L8 L_L10 0.9232870002468
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_21 1 2 3 4 REF
C_C1 1 2 387.84249795741pf
C_C2 1 4 4.1815750528793pf
C_C3 2 REF 2.9467067694334pf
C_C4 2 3 1.4191340026415pf
C_C5 3 REF 0.3395154494011pf
C_C6 4 REF 0.3679831172153pf
R_R1 1 2 -10.9945442613
R_R2 1 4 -989.972536615
R_R3 2 4 994.5310280163
L_L1 1 5 19.02803331842nh
R_RL1 5 REF -0.121993611743
L_L2 1 6 0.0936145510659nh
R_RL2 6 2 0.020410847112
L_L3 1 7 8.1922423597896nh
R_RL3 7 3 0.0142190348384
L_L4 1 8 7.5283234720013nh
R_RL4 8 4 0.0151082539498
L_L5 2 9 18.875814207044nh
R_RL5 9 REF -0.112273200231
L_L6 2 10 8.2442177261037nh
R_RL6 10 3 6.7888041195e-4
L_L7 2 11 7.5877869258947nh
R_RL7 11 4 4.7880184106e-4
L_L8 3 12 27.068526639919nh
R_RL8 12 REF -0.122051203295
L_L9 3 13 1.2756061020544nh
R_RL9 13 4 3.168303885e-5
L_L10 4 14 26.395810100192nh
R_RL10 14 REF -0.121639443948
Kn_K1 L_L1 L_L2 0.092096414931
Kn_K2 L_L1 L_L5 0.9975382538215
Kn_K3 L_L1 L_L8 0.835082583915
Kn_K4 L_L1 L_L10 0.8454607008572
Kn_K5 L_L2 L_L3 0.0237738296668
Kn_K6 L_L2 L_L4 0.0203401358884
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082861902045
Kn_K9 L_L2 L_L7 -0.0908141568
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010834551693
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9196780221231
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.994309429173
Kn_K16 L_L3 L_L7 0.9134266342534
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.29998925118
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9146069418121
Kn_K22 L_L4 L_L7 0.993814657772
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0986942787127
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8339261972976
Kn_K27 L_L5 L_L10 0.8441211476454
Kn_K28 L_L6 L_L7 0.9202199671133
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.297887583336
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0995102394758
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1657831087147
Kn_K36 L_L8 L_L10 0.9762182713103
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_22 1 2 3 4 REF
C_C1 1 2 69.982519737866pf
C_C2 1 4 0.7854744909383pf
C_C3 2 REF 0.8677735113264pf
C_C4 2 3 0.2914414853466pf
C_C5 3 REF 0.3465418527576pf
C_C6 4 REF 0.3452089236054pf
R_R1 1 2 -89.00612070904
L_L1 1 5 0.4254769012291nh
R_RL1 5 2 0.0881825354699
L_L2 1 6 40.351325715324nh
R_RL2 6 3 0.0649604119213
L_L3 1 7 39.579998489649nh
R_RL3 7 4 0.0650510136099
L_L4 2 8 40.744326093777nh
R_RL4 8 3 0.0535956222963
L_L5 2 9 39.98069630148nh
R_RL5 9 4 0.0526129698309
L_L6 3 10 1.3082889874548nh
R_RL6 10 4 -1.976525732e-5
Kn_K1 L_L1 L_L4 -0.098289034561
Kn_K2 L_L1 L_L5 -0.100156406023
Kn_K3 L_L2 L_L3 0.9836781380345
Kn_K4 L_L2 L_L4 0.9947650755
Kn_K5 L_L2 L_L5 0.9783320921136
Kn_K6 L_L2 L_L6 -0.143110814092
Kn_K7 L_L3 L_L4 0.9786140768401
Kn_K8 L_L3 L_L5 0.9946647870992
Kn_K9 L_L3 L_L6 0.0373098613016
Kn_K10 L_L4 L_L5 0.9838372859602
Kn_K11 L_L4 L_L6 -0.141891806772
Kn_K12 L_L5 L_L6 0.0376545814616
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_23 1 2 3 4 REF
C_C1 1 REF 0.2846128828372pf
C_C2 1 2 25.837538910296pf
C_C3 1 4 0.3140994392766pf
C_C4 2 REF 0.5918396334059pf
C_C5 2 3 0.133445421148pf
C_C6 3 REF 0.3469009121922pf
C_C7 4 REF 0.3414776159302pf
R_R1 1 2 -275.0780515399
L_L1 1 5 0.7612022231001nh
R_RL1 5 2 0.1215169646539
L_L2 3 6 1.3130521637642nh
R_RL2 6 4 -5.549668231e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_24 1 2 3 4 REF
C_C1 1 REF 0.3682606134591pf
C_C2 1 2 12.490967759609pf
C_C3 1 3 0.0406586407268pf
C_C4 1 4 0.1740361498015pf
C_C5 2 REF 0.5218230672124pf
C_C6 2 3 0.0837056304203pf
C_C7 3 REF 0.345797232786pf
C_C8 4 REF 0.3391912657232pf
L_L1 1 5 1.1542967166644nh
R_RL1 5 2 0.0624685549449
L_L2 3 6 1.3117732587663nh
R_RL2 6 4 -4.41542312e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_25 1 2 3 4 REF
C_C1 1 REF 0.404604650176pf
C_C2 1 2 7.3846653643312pf
C_C3 1 3 0.0647580350394pf
C_C4 1 4 0.1199969675177pf
C_C5 2 REF 0.501428422266pf
C_C6 2 3 0.0631075889232pf
C_C7 2 4 0.0172756480826pf
C_C8 3 REF 0.3441190045761pf
C_C9 4 REF 0.3368853861609pf
L_L1 1 5 1.6993507930971nh
R_RL1 5 2 3.4099678227e-4
L_L2 3 6 1.3094943138868nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_26 1 2 3 4 REF
C_C1 1 REF 0.4228208029088pf
C_C2 1 2 5.8372713181435pf
C_C3 1 3 0.074746743359pf
C_C4 1 4 0.1020271152296pf
C_C5 2 REF 0.4955655465218pf
C_C6 2 3 0.0556660233393pf
C_C7 2 4 0.0379608646864pf
C_C8 3 REF 0.3429564046784pf
C_C9 4 REF 0.3353842178221pf
L_L1 1 5 1.8390936899466nh
R_RL1 5 2 1.0460490175e-4
L_L2 3 6 1.3084908359321nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param48_26

